US08431660B2
Production of 5-(2-hydroxyphenyl)-1H-tetrazol
Into the flask, 100 mL of anhydrous toluene and diethyl aluminum chloride (40 mmol, 1.8 M toluene solution) were put and cooled to 0° C. Sodium azide (2.6 g, 40 mmol) was put into the mixture, and the mixture was agitated at room temperature for 4 hours. After the agitated solution was cooled to 0° C. again, 2-hydroxybenzonitrile (20 mmol, 2.38 g) was added thereto. The reaction mixture was refluxed at 80 for 1 day. After the reaction was finished, the mixture was cooled to 0° C., 70 mL of 6 M HCL, 50 mL of distilled water, 100 mL of ethyl acetate, and 80 mL of saturated NaCl were dropped thereon, treated, and extracted. The organic phase was reextracted by using 200 mL of water twice. The combined water layers were extracted with 200 mL of ethyl acetate twice. The combined organic layers were dried through Na2SO4. The solvent was removed to obtain the product. The product was recrystallized from ethyl acetate to obtain a pure product (yield 80%).

reactant | diethyl aluminum chloride | 40 mmol, 1.8 M | [Cl-].C(C)[Al+]CC
reactant | Sodium azide | 40 mmol, 2.6 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-hydroxybenzonitrile | 20 mmol, 2.38 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | NaCl | 80 mL | [Na+].[Cl-]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-hydroxyphenyl)-1H-tetrazol | yield 80% | OC1=C(C=CC=C1)C1=NN=NN1 | C7H6N4O
